US06703392B2
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-2,3,4-trimethoxyphenyl-acetamide:
prepared by reaction of 3,4-dimethoxyphenylethylamine and 2,3,4-trimethoxyphenylacetic acid.

reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 2,3,4-trimethoxyphenylacetic acid | COC1=C(C=CC(=C1OC)OC)CC(=O)O | C11H14O5
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-2,3,4-trimethoxyphenyl-acetamide | COC=1C=C(C=CC1OC)CCNC(CC1=C(C(=C(C=C1)OC)OC)OC)=O | C21H27NO6
